US06242600B1
4-Oxo-4-(4-pyridin-4-ylpiperazin-1-yl)butanoic Acid
To an aqueous solution (10 ml) of 1-(4-pyridyl)-piperazine (1.63 g) were added 2N sodium hydroxide (5.5 ml) and ethylsuccinyl chloride at 0° C. and the solution was stirred for 1 hour at room temperature 1 hour. The reaction solution was saturated with sodium chloride, extracted with ethyl acetate three times and dried over Na2SO4. The solution was removed under reduced pressure and the residue was dissolved in methanol (10 ml). To the solution was added 2N sodium hydroxide (11 ml) and the solution was stirred for 1 hour at room temperature. The pH of the reaction mixture was adjusted to 5 with acetic acid and the solution was concentrated under reduced pressure and the concentrate was recrystallized from ethanol to give the titled compound (1.4 g) as a colorless crystal.

reactant | sodium hydroxide | 2N, 5.5 ml | [OH-].[Na+]
reactant | ethylsuccinyl chloride | C(C)C(C(=O)Cl)CC(=O)Cl | C6H8Cl2O2
reactant | sodium chloride | [Cl-].[Na+]
reactant | 1-(4-pyridyl)-piperazine | 10 ml, 1.63 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
product | 4-Oxo-4-(4-pyridin-4-ylpiperazin-1-yl)butanoic Acid | 1.4 g | O=C(CCC(=O)O)N1CCN(CC1)C1=CC=NC=C1 | C13H17N3O3
